US07157579B2
To a mixture of 0.5 g of 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-2-methoxypyridine and 10 ml of chloroform, 0.5 g of boron tribromide was added and stirred at room temperature for 3 hours. Then the reaction mixture was concentrated. The residue was poured into water and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and conventrated. The residue was subjected to silica gel column chromatography (eluent: ethyl acetate) to give 0.31 g of 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-1H-pyridin-2-one.

reactant | 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-2-methoxypyridine | 0.5 g | ClC1=C(OC=2C(=NC=CC2)OC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C18H12ClF4N3O4
reactant | boron tribromide | 0.5 g | B(Br)(Br)Br | BBr3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-1H-pyridin-2-one | 0.31 g | ClC1=C(OC=2C(NC=CC2)=O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C17H10ClF4N3O4
